US08183246B2
2-Hydroxy-1-(4-methoxyphenyl)-2-phenylethanone
According to the procedure in the literature [J. Chem. Soc. Perkin Trans. I, 1992, 2409-2417], dissolve 292 ml (2.08 mol) diisopropylamine in 3.6 litre 1,2-dimethoxyethane and cool to −78° C. Add 826 ml n-butyllithium solution (2.5 M in n-hexane, 2.066 mol) at a temperature below −60° C. Stir the mixture for a further 15 min at <−60° C. and then add a solution of 442 g (1.877 mol) (4-methoxyphenyl)[(trimethylsilyl)oxy]acetonitrile in 1.41 litre 1,2-dimethoxyethane dropwise at <−60° C. After further stirring for 30 min at −60° C., add a solution of 199.3 g (1.878 mol) benzaldehyde in 1.4 litre 1,2-dimethoxyethane in the space of 20 min at −60° C. Next, heat the reaction mixture slowly to RT in 4 h. Add 7 litre saturated ammonium chloride solution and extract with ethyl acetate. Wash the organic phase with saturated ammonium chloride solution, dry, and concentrate under vacuum. Take up the residue in 7 litre dioxan and 5 litre methanol, and add 6 litre 1 N hydrochloric acid. Stir the mixture for 3 h at RT, then add 3 litre saturated sodium chloride solution and extract the mixture with 6.5 litre ethyl acetate. Wash the organic phase with 1.0 litre 1 N sodium hydroxide solution and with saturated sodium chloride solution, dry, and concentrate under vacuum. Take up the residue in 2 litre diisopropyl ether, decant from the insoluble matter and seed with crystals. Stir the resultant suspension for 2 h at RT and then filter off the crystals with suction. Wash with 300 ml diisopropyl ether and petroleum ether and dry under vacuum. 236.8 g (47.8% of theor.) of the target compound is obtained.

reactant | diisopropylamine | 2.08 mol, 292 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.066 mol, 2.5 M, 826 ml | C(CCC)[Li]
reactant | (4-methoxyphenyl)[(trimethylsilyl)oxy]acetonitrile | 1.877 mol, 442 g | COC1=CC=C(C=C1)C(C#N)O[Si](C)(C)C | C12H17NO2Si
reactant | benzaldehyde | 1.878 mol, 199.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | 7 litre | [Cl-].[NH4+]
solvent | 1,2-dimethoxyethane | 3.6 litre | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 1.41 litre | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 1.4 litre | COCCOC | C4H10O2
product | 2-Hydroxy-1-(4-methoxyphenyl)-2-phenylethanone | OC(C(=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C15H14O3
